US07446219B2
N-[2-Cyano-1-(4,5-difluoro-2-(thien-3-yl)phenoxy)-2-propyl]-4-trifluoromethoxybenzamide
120 mg of N-[2-cyano-1-(2-bromo-4,5-difluorophenoxy)-2-propyl]-4-trifluoromethoxybenzamide, 160 mg of thiophene-3-boronic acid and 3 ml of saturated aqueous sodium bicarbonate solution are dissolved in 4 ml of toluene and degassed for 15 minutes using a stream of nitrogen. Subsequently, 9 mg of tetrakis(triphenylphosphine)palladium are added and the mixture is stirred at reflux for 20 h. The mixture is subsequently diluted with ethyl acetate and washed with water and saturated sodium chloride solution. The organic phase is dried with magnesium sulfate, filtered and evaporated. After purifying by means of HPLC, the title compound is obtained with a melting point of 128-30° C.

reactant | N-[2-cyano-1-(2-bromo-4,5-difluorophenoxy)-2-propyl]-4-trifluoromethoxybenzamide | 120 mg | C(#N)C(COC1=C(C=C(C(=C1)F)F)Br)(C)NC(C1=CC=C(C=C1)OC(F)(F)F)=O | C18H12BrF5N2O3
reactant | thiophene-3-boronic acid | 160 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | sodium bicarbonate | 3 ml | C([O-])(O)=O.[Na+]
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2-Cyano-1-(4,5-difluoro-2-(thien-3-yl)phenoxy)-2-propyl]-4-trifluoromethoxybenzamide | C(#N)C(COC1=C(C=C(C(=C1)F)F)C1=CSC=C1)(C)NC(C1=CC=C(C=C1)OC(F)(F)F)=O | C22H15F5N2O3S
